US07288677B2
4,4′-Methylenebis(2,6-dimethylbenzeneamine) (1.25 g), methyl ethyl ketone (15 g), Pt(S)/C (0.10 g), and toluene (40.0 g) were charged into reactor. The reactor was purged 3 times with 110 psig (8.60×105 Pa) of H2 at 22° C. The reaction mixture was then stirred at 22° C. under 110 psig (8.60×105 Pa) of H2 for 4.5 hours. GC (conditions: 100° C./5 minutes/10° C.-minute/270° C.) showed 35% conversion of 4,4′-methylenebis(2,6-dimethylbenzeneamine). The reaction mixture was then stirred for 4 hours at 60° C., after which GC showed 79.5% conversion of 4,4′-methylenebis(2,6-dimethylbenzeneamine). The reaction mixture was then stirred for 11 hours at 130° C., after which GC showed 100% conversion of 4,4′-methylenebis(2,6-dimethylbenzeneamine), and a 96% yield of N,N′-di-sec-butyl-4,4′-methylenebis(2,6-dimethylbenzeneamine); the remaining 4% was determined to be N-sec-butyl-4,4′-methylenebis(2,6-dimethylbenzeneamine). The product was observed to be water-white in color, and the structure of the product was confirmed by GC-MS.

reactant | 4,4′-Methylenebis(2,6-dimethylbenzeneamine) | 1.25 g | C(C1=CC(=C(C(=C1)C)N)C)C1=CC(=C(C(=C1)C)N)C | C17H22N2
reactant | methyl ethyl ketone | 15 g | C(C)C(=O)C | C4H8O
catalyst | Pt(S)/C | 0.10 g | [Pt] | Pt
solvent | toluene | 40.0 g | C1(=CC=CC=C1)C | C7H8
product | N,N′-di-sec-butyl-4,4′-methylenebis(2,6-dimethylbenzeneamine) | 96% yield | C(C)(CC)NC1=C(C=C(C=C1C)CC1=CC(=C(C(=C1)C)NC(C)CC)C)C | C25H38N2
